US07723347B2
4-(4-{[2-Amino-6-(trifluoromethyl)pyrimidin-4-yl]amino}-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile
82 mg (0.31 mmol) of 4-(4-amino-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile and 67 mg (0.34 mmol) of 4-chloro-6-trifluoromethylpyrimidine-2-amine are suspended in 3 ml of water, 1.5 ml of ethanol and 0.15 ml of 4N hydrochloric acid. The reaction mixture is heated at reflux for 2 hours. After cooling, the mixture is made alkaline using dilute aqueous sodium hydroxide solution, a little methanol is added, the mixture is extracted with ethyl acetate and the solvent is removed under reduced pressure. The residue is purified by preparative HPLC. This gives crystals.

reactant | 4-(4-amino-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | 0.31 mmol, 82 mg | NC1=CC(=C(CC2=C3C(=NC=C2)NC=C3C#N)C=C1)F | C15H11FN4
reactant | 4-chloro-6-trifluoromethylpyrimidine-2-amine | 0.34 mmol, 67 mg | ClC1=NC(=NC(=C1)C(F)(F)F)N | C5H3ClF3N3
reactant | hydrochloric acid | 4N, 0.15 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4-(4-{[2-Amino-6-(trifluoromethyl)pyrimidin-4-yl]amino}-2-fluorobenzyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonitrile | NC1=NC(=CC(=N1)NC1=CC(=C(CC2=C3C(=NC=C2)NC=C3C#N)C=C1)F)C(F)(F)F | C20H13F4N7
